US04113463
To 40 parts of tetrahydrofuran are added 1.4 parts of 3-amino-1-propanol and 1.8 parts of triethylamine. Into this solution, 10 parts of tetrahydrofuran containing 5 parts of 2,4,6-trichlorobenzenesulfonyl chloride is dropped with stirring. After the dropping, the resultant mixture is stirred for 1 hour. After completion of the reaction, the salt is removed by filtration, and the filtrate is freed from the solvent. The resulting oily substance is charged with water and then allowed to stand to form a solid. This solid is recrystallized from toluene to obtain 3.8 parts of N-3-hydroxypropyl-2,4,6-trichlorobenzenesulfonamide, m.p. 104.5°-106.5° C.

reactant | 3-amino-1-propanol | NCCCO | C3H9NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trichlorobenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-3-hydroxypropyl-2,4,6-trichlorobenzenesulfonamide | OCCCNS(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl | C9H10Cl3NO3S
